US09447030B2
A solution of tert-butyl (2-amino-4-(thiophen-2-yl)phenyl)carbamate (1.2 g, 4.13 mmol, 1.0 eq.), tetrahydro-2H-pyran-4-carboxylic acid (0.65 g, 4.96 mmol, 1.2 eq.), HATU (3.14 g, 8.27 mmol, 2.0 eq.) and Hünigs base (1.80 mL, 10.33 mmol, 2.5 eq.) in DMF (15 mL) was stirred for 18 h at room temperature. The reaction mixture was diluted with water. The solid was isolated by filtration and washed with hexanes to afford tert-butyl (2-(tetrahydro-2H-pyran-4-carboxamido)-4-(thiophen-2-yl)phenyl)carbamate (1.3 g, 78% yield).

reactant | tert-butyl (2-amino-4-(thiophen-2-yl)phenyl)carbamate | 4.13 mmol, 1.2 g, 1.0 eq. | NC1=C(C=CC(=C1)C=1SC=CC1)NC(OC(C)(C)C)=O | C15H18N2O2S
reactant | tetrahydro-2H-pyran-4-carboxylic acid | 4.96 mmol, 0.65 g, 1.2 eq. | O1CCC(CC1)C(=O)O | C6H10O3
reactant | HATU | 8.27 mmol, 3.14 g, 2.0 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Hünigs base | 10.33 mmol, 1.80 mL, 2.5 eq. | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | tert-butyl (2-(tetrahydro-2H-pyran-4-carboxamido)-4-(thiophen-2-yl)phenyl)carbamate | 1.3 g, 78% yield | O1CCC(CC1)C(=O)NC1=C(C=CC(=C1)C=1SC=CC1)NC(OC(C)(C)C)=O | C21H26N2O4S
